US08202858B2
4-(4-Methoxycarbonyl-butyl)-3-methyl-benzoic Acid Tert-butyl Ester
4-((1E,3E)-4-Methoxycarbonyl-buta-1,3-dienyl) 3-methyl-benzoic acid tert-butyl ester from Example E31.2 (1.54 g, 5.1 mmol) was dissolved in methanol (40 ml) and hydrogenated over 10% Pd/C catalyst (200 mg) for 5 h. The mixture was filtered through Celite® filter agent and the filtrate was concentrated in vacuo to yield the title compound (1.43 g, 92%).

reactant | 4-((1E,3E)-4-Methoxycarbonyl-buta-1,3-dienyl) 3-methyl-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=CC(=C(C=C1)\C=C\C=C\C(=O)OC)C)=O | C18H22O4
solvent | methanol | 40 ml | CO | CH4O
catalyst | Pd/C | 200 mg | [Pd] | Pd
product | 4-(4-Methoxycarbonyl-butyl)-3-methyl-benzoic Acid Tert-butyl Ester | 1.43 g, 92% | C(C)(C)(C)OC(C1=CC(=C(C=C1)CCCCC(=O)OC)C)=O | C18H26O4
